US06169107A
A mixture of 2.20 g (8.97 mmol) of isopropyl 1-isopropyl-5-indolecarboxylate, 100 ml of 2N sodium hydroxide solution and 100 ml of ethanol was refluxed for an hour. The solvent was then distilled off under reduced pressure. Thereafter water was added to the residue and the resulting mixture was acidified with conc. hydrochloric acid. The precipitated solid was filtered and dried under reduced pressure to give 2.00 g of crude 1-isopropyl-5-indole-carboxylic acid. The reaction was carried out in a manner similar to Reference Example 4 using 2.00 g of the crude 1-isopropyl-5-indolecarboxylic acid, 0.44 g (11.1 mmol) of 60% sodium hydride, 2.87 g (20.2 mmol) of methyl iodide and 50 ml of dimethyl-formamide. Thus, 1.64 g (84.2%; yield based on isopropyl 1-isopropyl-5-indolecarboxylic acid) was obtained.

reactant | isopropyl 1-isopropyl-5-indolecarboxylate | 8.97 mmol, 2.20 g | C(C)(C)N1C=CC2=CC(=CC=C12)C(=O)OC(C)C | C15H19NO2
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-isopropyl-5-indole-carboxylic acid | 2.00 g | C(C)(C)N1C=CC2=CC(=CC=C12)C(=O)O | C12H13NO2
